US08754103B2
(5-bromo-2-hydrazinylpyridine (1.83 g, 9.73 mmol) and methyl 2,2-difluoro-3-methoxypropanoate (1.00 g, 6.49 mmol) were refluxed in toluene (35 mL) overnight. The reaction mixture was concentrated and purified by chromatography (EtOAc: hexanes=1:4) to give N′-(5-bromopyridin-2-yl)-2,2-difluoro-3-methoxypropanehydrazide.

reactant | 5-bromo-2-hydrazinylpyridine | 9.73 mmol, 1.83 g | BrC=1C=CC(=NC1)NN | C5H6BrN3
reactant | methyl 2,2-difluoro-3-methoxypropanoate | 6.49 mmol, 1.00 g | FC(C(=O)OC)(COC)F | C5H8F2O3
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | N′-(5-bromopyridin-2-yl)-2,2-difluoro-3-methoxypropanehydrazide | BrC=1C=CC(=NC1)NNC(C(COC)(F)F)=O | C9H10BrF2N3O2
